US04234588
Reaction of 2-methylthio-5-methyl-4-pyrimidone with one equivalent of 2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamine by boiling under reflux in pyridine for 48 hours gives 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-methyl-4-pyrimidone.

reactant | 2-methylthio-5-methyl-4-pyrimidone | CSC1=NC=C(C(N1)=O)C | C6H8N2OS
reactant | 2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamine | one equivalent | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-methyl-4-pyrimidone | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)C | C15H22N4O2S
